US05747457
0.4 g of H-Cys(Trt)-Pro-Wang resin are condensed in a peptide synthesizer (continuous flow principle) with Fmoc-Lys(Boc)-Thr(But)-Ala-Asn(Trt)-OH (SEQ ID NO:87), using a three-fold excess of the Fmoc peptide. The coupling is carried out at room temperature in DCCI/HOBt, to give Fmoc-Lys(Boc)-Thr(But)-Ala-Asn(Trt)-Cys(Trt)-Pro-Wang (SEQ ID NO:223) resin. Subsequent treatment with TFA/CH2Cl2 followed by removal of the Fmoc group with piperidine/DMF (20%) gives H-Lys-Thr-Ala-Asn-Cys(Trt)-Pro-OH (SEQ ID NO:92).

reactant | H-Cys(Trt)-Pro | 0.4 g | N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1 | C27H28N2O3S
reactant | Fmoc-Lys(Boc)-Thr(But)-Ala-Asn(Trt)-OH | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C60H72N6O11
solvent | DCCI HOBt | C1CCC(CC1)N=C=NC2CCCCC2.C=1C=CC2=C(C1)N=NN2O
product | Fmoc-Lys(Boc)-Thr(But)-Ala-Asn(Trt)-Cys(Trt)-Pro | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C87H98N8O13S
